US07015343B2
115 g of abietic acid was put into a 1000 ml three-neck bottle , and then 2.3 g of 5% palladium/carbon catalyst was added in. The mixture was stirred at 250° C. (oil bath) for 2 hours, after slightly cooled down, 200 ml of 95% ethanol was added. The mixture was refluxed until completely dissolved, filtered when it was warm, allowed to stand still and to be crystallized to give 70 g of dehydroabietic acid after filtered and dried.

reactant | abietic acid | 115 g | CC(C)C1=CC2=CC[C@@H]3[C@@]([C@H]2CC1)(CCC[C@@]3(C)C(=O)O)C | C20H30O2
catalyst | palladium/carbon | 2.3 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | dehydroabietic acid | 70 g | CC(C)C=1C=CC2=C(C1)CC[C@@H]3[C@@]2(CCC[C@@]3(C)C(=O)O)C | C20H28O2
